US04152326
In a manner analogous to that described in Example 1, by the reaction of hydroxylamine with 1,1-cycloheptane-diacetic anhydride, there was obtained 1,1-cycloheptane-diacetic acid N-hydroxylimide (m.p. 90°-100° C.) which, by acylation with benzene-sulphonyl chloride, was converted into benzene-sulphonyloxy-1,1-cycloheptane, diacetic acid imide (m.p. 130°-133° C.).

reactant | hydroxylamine | NO | H3NO
reactant | 1,1-cycloheptane-diacetic anhydride | C12(CCCCCC1)CC(=O)OC(C2)=O | C11H16O3
product | 1,1-cycloheptane-diacetic acid N-hydroxylimide | ON=C(CC1(CCCCCC1)CC(=O)O)O | C11H19NO4
